US20010027196A1
2-Amino-4-ethylamino-6-furan-2-yl-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfonyl-pyrimidine-5-carbonitrile and ethylamine in DME. EI-MS m/e (%): 229 (M+, 100), 228 ([M—H]+, 76), 214 ([M—CH3]+, 84), 201 (50), 44 (61).

reactant | 2-amino-4-furan-2-yl-6-methanesulfonyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)(=O)C | C10H8N4O3S
reactant | ethylamine | C(C)N | C2H7N
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-ethylamino-6-furan-2-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)NCC)C#N)C=1OC=CC1 | C11H11N5O
